US04239901
252 mg (1 mmole) of 2-[3-chloro-4-(2-pyrazolin-1-yl)phenyl]propionic acid are heated to the boil for 8 hours with 250 mg of active manganese dioxide and 1 g molecular sieve 4 A*) in 10 ml of toluene. Filtration is effected, followed by extraction first with 1 N hydrochloric acid and then with 1 N sodium hydroxide. The aqueous alkaline extract is acidified and subsequently extracted with benzene; the resulting organic phase is dried to yield 2-[3-chloro-4-(pyrazol-1-yl)phenyl]propionic acid (m.p. 83° to 85° C.).

reactant | 2-[3-chloro-4-(2-pyrazolin-1-yl)phenyl]propionic acid | 1 mmole, 252 mg | ClC=1C=C(C=CC1N1N=CCC1)C(C(=O)O)C | C12H13ClN2O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | 250 mg | [O-2].[O-2].[Mn+4]
product | 2-[3-chloro-4-(pyrazol-1-yl)phenyl]propionic acid | ClC=1C=C(C=CC1N1N=CC=C1)C(C(=O)O)C | C12H11ClN2O2
